US04640708
3-Hydroxy-5-(3-methylnaphth-2-yl)cyclohex-2-en-1-one (1.2 g) was added to a suspension of sodium hydride (0.126 g) in anhydrous dimethylformamide (15 ml). The mixture was stirred and heated at 60° C. under nitrogen. After 10 minutes, propionic anhydride (0.69 ml) was added and the mixture was heated at 110° C. for 30 min. After cooling, the mixture was poured onto ice/hydrochloric acid. The dried (MgSO4) diethyl ether extract was evaporated and the residue was purified by column chromatography over silica gel with chloroform elution to give 3-hydroxy-5-(3-methylnaphth-2-yl)-2-propionylcyclohex-2-en-1-one as a pale yellow solid, mp 118° C.

reactant | 3-Hydroxy-5-(3-methylnaphth-2-yl)cyclohex-2-en-1-one | 1.2 g | OC1=CC(CC(C1)C1=CC2=CC=CC=C2C=C1C)=O | C17H16O2
reactant | sodium hydride | 0.126 g | [H-].[Na+]
reactant | propionic anhydride | 0.69 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-hydroxy-5-(3-methylnaphth-2-yl)-2-propionylcyclohex-2-en-1-one | OC1=C(C(CC(C1)C1=CC2=CC=CC=C2C=C1C)=O)C(CC)=O | C20H20O3
